US04959361
4-{3-[4-(2-Chlorophenyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-v11-2-propynyl]-7-fluoro-2H-1,4-benzoxazin-3(4H)-one
The title compound was prepared by reacting 4-(2-chlorophenyl)-2-iodo-9-methyl-6H-thieno-[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine with 7-fluoro-4-(2-propynyl)-2H-1,4-benzoxazin-3(4H)-one under the conditions used in Example 37. The product was isolated by chromatography over the 50 fold amount of silica gel using 4 % (v/v) of ethanol in methylene chloride. The good fractions were combined and evaporated and the residue was crystallized from ethyl acetate to give colorless crystals of 4-{3-[4-(2-chlorophenyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin.2.2-propynyl}-7-fluoro-2H-1,4-benzoxazin-3(4H)-one with m.p. 215°-217°.

reactant | 4-(2-chlorophenyl)-2-iodo-9-methyl-6H-thieno-[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)I)C(=NN2)C | C15H10ClIN4S
reactant | 7-fluoro-4-(2-propynyl)-2H-1,4-benzoxazin-3(4H)-one | FC1=CC2=C(N(C(CO2)=O)CC#C)C=C1 | C11H8FNO2
reactant | ethanol | C(C)O | C2H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(2-chlorophenyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=CS3)C(=NN2)C | C15H11ClN4S
